US08314100B2
c) 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-phenylpiperazine
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate (27 mg, 0.10 mmol) and 1-phenylpiperazine (24 mg, 0.15 mmol) were dissolved in tetrahydrofuran (2 ml) at room temperature and thereto DBU (23 mg, 0.15 mmol) was added. The resulting mixture was stirred at 70° C. for 7 hours and concentrated under the reduced pressure to remove the solvent, and purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (2:1) mixture and concentration gave 34 mg of the titled compound (yield, 88%). 1H NMR (300 MHz, CDCl3): δ 3.29 (s, 4H), 3.77 (s, 3H), 4.14 (s, 4H), 6.89-6.97 (m, 4H), 7.24-7.56 (m, 5H), 7.62-7.71 (m, 1H)

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | 0.10 mmol, 27 mg | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-phenylpiperazine | 0.15 mmol, 24 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DBU | 0.15 mmol, 23 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-phenylpiperazine | 34 mg, 88% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC=CC=C1 | C20H20FN5O2
